US07977358B2
A] 1-(1-Benzyl-3,3-dimethyl-piperidin-4-yl)-pyrrolidin-2-one
To an ice cold solution of 1-benzyl-3,3-dimethyl-piperidin-4-one (0.5 g, 2 mmol) (J. Med. Chem. Lett. 2003, 13, 1627) in CH2Cl2 (10 ml) was added methyl 4-aminobutyrate hydrochloride (0.7 g, 5 mmol), acetic acid (0.4 ml, 7 mmol), triethylamine (0.5 ml, 5 mmol) and sodium triacetoxyborohydride (0.5 g, 3 mmol). The mixture was allowed to reach room temperature and was stirred for 16 h after which time it was washed with saturated sodium hydrogen carbonate solution, dried (Na2SO4) and concentrated. The residue (0.6 g, 2 mmol) was then redissolved in MeOH (10 ml), potassium carbonate (0.3 g, 2 mmol) added and the mixture heated to 70° C. for 2 h. The mixture was then filtered, the methanol evaporated and the residue redissolved in DMF (10 ml) and reacted with EDCl (0.4 g, 2 mmol) at 60° C. for 2 h after which time the DMF was evaporated, the residue taken up in CH2Cl2, washed with saturated sodium hydrogen carbonate solution, dried (Na2SO4) and concentrated. Flash column chromatography (EtOAc:n-heptane 2:1) afforded the title compound (0.4 g, 85%) as yellow oil. MS: 287.4 (MH+).

reactant | 1-benzyl-3,3-dimethyl-piperidin-4-one | 2 mmol, 0.5 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)(C)C | C14H19NO
reactant | methyl 4-aminobutyrate hydrochloride | 5 mmol, 0.7 g | Cl.NCCCC(=O)OC
reactant | acetic acid | 7 mmol, 0.4 ml | C(C)(=O)O | C2H4O2
reactant | triethylamine | 5 mmol, 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 3 mmol, 0.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | potassium carbonate | 2 mmol, 0.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | EDCl | 2 mmol, 0.4 g | CCN=C=NCCCN(C)C.Cl
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 10 ml | CO | CH4O
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(1-Benzyl-3,3-dimethyl-piperidin-4-yl)-pyrrolidin-2-one | 0.4 g, 85% | C(C1=CC=CC=C1)N1CC(C(CC1)N1C(CCC1)=O)(C)C | C18H26N2O
